US04255182
Preparation of N-[5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl]-N'-(4-methyl-1,3-dioxan-2-ylmethyl)-N'-methylurea
N-(4-methyl-1,3-dioxan-2-ylmethyl)-methylamine (6 grams), 5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl isocyanate dimer (6 grams) and chloroform (20 ml) were charged into a glass reaction vessel and stirred at room temperature for a period of about 2 hours. The solvent was then stripped off on a rotary evaporator and the residue treated with a mixture of diethyl ethyl (100 ml)/water (50 ml). The ether, layer was isolated and dried. Ether was stripped off an a rotary evaporator to yield the desired product N-[5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl]-N'-(4-methyl-1,3-dioxan-2-ylmethyl)-N'-methylurea as the residue. Melting point 131° C.-133° C.

reactant | N-(4-methyl-1,3-dioxan-2-ylmethyl)-methylamine | 6 grams | CC1OC(OCC1)CNC | C7H15NO2
reactant | 5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl isocyanate | CN(S(=O)(=O)C1=NN=C(S1)N=C=O)C | C5H6N4O3S2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazol-2-yl]-N'-(4-methyl-1,3-dioxan-2-ylmethyl)-N'-methylurea | CN(S(=O)(=O)C1=NN=C(S1)NC(=O)N(C)CC1OCCC(O1)C)C | C12H21N5O5S2
